US04803200
β-[(2-Hydroxyethyl)amino]-4-methyl-α-(4-methylphenyl)benzene-ethanol, monohydrochloride.
A mixture of 40.0 g (0.33 mole) of tolualdehyde, 10 ml ethanol and 10.84 g (0.17 mole) of potassium cyanide was refluxed overnight at 90° C. An additional 10.8 g (0.17 mole) of potassium cyanide was added and the mixture was refluxed for 5 hr more. Aqueous sodium bisulfite was added to remove unreacted aldehyde. The mixture was reheated, cooled and extracted with methylene chloride. The solvent was stripped off. On dissolving the residue in isopropyl alcohol, crystals were obtained in amount of 14.26 g which represents a 35% yield of 4,4'-dimethylbenzoin. A portion of the 4,4'-dimethylbenzoin, 4.74 g (0.19 mole), 3.84 g (0.063 mole) of ethanolamine and 2.5 g (0.018 mole) of phosphorus pentoxide were mixed and heated under nitrogen atmosphere by means of an oil bath for 4 hr at 105° C. The reaction mixture was cooled and 100 ml of chloroform was added to it with mixing. The chloroform layer was separated and washed twice with 100 ml of dilute hydrochloric acid each time. The aqueous layers were combined, basified and washed with chloroform. The chloroform layer was separated, concentrated and dissolved in 100 ml of ethanol to which 0.038 mole of sodium borohydride in aqueous solution was added. The mixture was stirred for 2 hr and concentrated to dryness. The residue was partitioned between 100 ml of 25% sodium hydroxide and 100 ml of methylene chloride. The methylene chloride layer was washed twice with 100 ml of water each time, concentrated and the residue was dissolved in hot isopropyl alcohol. A solution of hydrogen chloride in isopropyl alcohol was added to give, after filtration and drying, 1.25 g (48.8%) of the hydrochloride salt, m.p. 217°-220° C.

reactant | 4,4'-dimethylbenzoin | CC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)C | C16H16O2
reactant | ethanolamine | 0.063 mole, 3.84 g | C(O)CN | C2H7NO
reactant | phosphorus pentoxide | 0.018 mole, 2.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium borohydride | 0.038 mole | [BH4-].[Na+]
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | β-[(2-Hydroxyethyl)amino]-4-methyl-α-(4-methylphenyl)benzene-ethanol, monohydrochloride | Cl.OCCNC(C(O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C18H23NO2.ClH/c1-13-3-7-15(8-4-13)17(19-11-12-20)18(21)16-9-5-14(2)6-10-16;/h3-10,17-21H,11-12H2,1-2H3;1H
